US07074819B2
Step 2) Synthesis of 3-(4-benzyloxyphenyl)-7-methoxymethyloxy-3-methylchroman-4-one
To a mixture of 3-(4-hydroxyphenyl)-7-methoxymethyloxy-3-methylchroman-4-one (3.55 g, 11.293 mmol) and potassium carbonate (9.35 g, 67.76 mmol) in acetone (130 ml) was added benzyl bromide (5.795 g, 33.879 mmol) at room temperature and stirred overnight. When the reaction was completed, water was added to the reaction solution which was then extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by column chromatography (n-hexane:ethyl acetate=9:1 to 7:3) to give 4.59 g (yield: quant.) of the title compound as a colorless oil.

reactant | 3-(4-hydroxyphenyl)-7-methoxymethyloxy-3-methylchroman-4-one | 11.293 mmol, 3.55 g | OC1=CC=C(C=C1)C1(COC2=CC(=CC=C2C1=O)OCOC)C | C18H18O5
reactant | potassium carbonate | 67.76 mmol, 9.35 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 33.879 mmol, 5.795 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | O | H2O
solvent | acetone | 130 ml | CC(=O)C | C3H6O
product | 3-(4-benzyloxyphenyl)-7-methoxymethyloxy-3-methylchroman-4-one | 4.59 g, yield: quant. | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1(COC2=CC(=CC=C2C1=O)OCOC)C | C25H24O5
